US05462941
1.0 g of 4-(2-furyl)-1-phthalazinone and 5 ml of phosphorus oxychloride were dissolved in 5 ml of dichloroethane, and the solution was stirred at 100° C. for 3 hours. The reaction solution was distilled off, and a 1-N aqueous NaOH solution was added thereto under cooling with ice. The solution was extracted with chloroform, dried and concentrated to obtain 910 mg of 1-chloro-4-(2-furyl)phthalazine.

reactant | 4-(2-furyl)-1-phthalazinone | 1.0 g | O1C(=CC=C1)C1=NNC(C2=CC=CC=C12)=O | C12H8N2O2
reactant | phosphorus oxychloride | 5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dichloroethane | 5 ml | ClC(C)Cl | C2H4Cl2
product | 1-chloro-4-(2-furyl)phthalazine | 910 mg | ClC1=NN=C(C2=CC=CC=C12)C=1OC=CC1 | C12H7ClN2O
